US05908858
79(i) N-(3-Chloro-4-methoxybenzylidene)-4-sulfamoylaniline
Following a procedure similar to that described in Example 1(i), but using 3-chloro-4-methoxybenzaldehyde and 4-sulfamoylaniline as starting materials, the title compound was obtained as a pale yellow powder (yield 72%).

reactant | 3-chloro-4-methoxybenzaldehyde | ClC=1C=C(C=O)C=CC1OC | C8H7ClO2
reactant | 4-sulfamoylaniline | S(N)(=O)(=O)C1=CC=C(N)C=C1 | C6H8N2O2S
product | N-(3-Chloro-4-methoxybenzylidene)-4-sulfamoylaniline | ClC=1C=C(C=NC2=CC=C(C=C2)S(N)(=O)=O)C=CC1OC | C14H13ClN2O3S
